US04916152
To a solution of (4-carboxy-4-methylpentyl)triphenylphosphonium bromide (3.83 g) in dimethyl sulfoxide (21 ml) was added sodium methylsulfinylmethide [19.5 m mol, prepared from sodium hydride (468 mg) and dimethyl sulfoxide (17 ml)]and the solution was stirred at room temperature for 30 minutes. To the resulting solution was added (2S,4R)-1-t-butoxycarbonyl-4-(4-chlorophenylsulfonylamino)-2-formylpyrrolidine (1.0 g) in dimethyl sulfoxide (3.0 ml) and the mixture was stirred at room temperature for 1 hour. After addition of water (50 ml), the solution was washed with ethyl acetate and the aqueous layer was adjusted to pH 1 with 1N hydrochloric acid. The aqueous solution was extracted with ethyl acetate and the organic phase was washed successively with water and brine. The solution was dried over magnesium sulfate and the solvent was evaporated in vacuo to give (2S,4R)-1-t-butoxycarbonyl-2-[(E and Z)-5-carboxy-5-methyl-1-hexenyl]-4-(4-chlorophenylsulfonylamino)pyrrolidine as an oil.

reactant | (4-carboxy-4-methylpentyl)triphenylphosphonium bromide | 3.83 g | [Br-].C(=O)(O)C(CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C)C
reactant | sodium | [Na] | Na
reactant | sodium hydride | 468 mg | [H-].[Na+]
reactant | (2S,4R)-1-t-butoxycarbonyl-4-(4-chlorophenylsulfonylamino)-2-formylpyrrolidine | 1.0 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)C=O | C16H21ClN2O5S
solvent | dimethyl sulfoxide | 21 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 3.0 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 17 ml | CS(=O)C | C2H6OS
solvent | water | 50 ml | O | H2O
product | 4-(4-chlorophenylsulfonylamino)pyrrolidine | ClC1=CC=C(C=C1)S(=O)(=O)NC1CCNC1 | C10H13ClN2O2S
